US06057452
Ethyl 2-chloro-3-hydroxy-3-phenylpropionate (CII)
A solution of ethyl 2-chloro-3-oxo-3-phenylpropionate (CI, 100 g, 0.44 mol) and glacial acetic acid (25 ml, 0.44 mol) in ethanol (1 l) is cooled to -5 ° and sirred for 10 min. Sodium borohydride pellets (12.54 g, 0.33 mol, diam. 11 mm) are aided in portions (4.2 g×3) with vigorous stirring. The reaction temperature is maintained at -5 to 0°. After the addition, the reaction mixture is stirred continuously at 0° for 5 hr and is then poured slowly into ice-water with stirring. The mixture is extracted with ethyl acetate (1 l). The organic phase is washed three times with water (100 ml) and saline (100 ml), dried over magnesium sulfate, and the solvent is removed under reduced pressure to give the title compound as a 1:4 mixture of the anti and syn isomers as determined by NMR, MS (m/z, CI+NH3) 246 (M+ +17), 228 (M+), 210, 194; "Anti" NMR (500 MHz, CDCl3) 7.60-7.50, 5.33, 4.64, 4.33, 1.33 δ; CMR (300 MHz, CDCl3) 167.9, 138.2, 128.7, 128.5, 126.7, 74.6, 62.9, 62.2 and 13.7 δ; "Syn" NMR (500 MHz, CDCl3) 7.60-7.50, 5.24, 4.58, 4.44 and 1.46 δ; CMR (300 MHz, CDCl3) 168.9, 138.8, 126.7, 126.5, 126.9, 75.2, 62.3, 59.2 and 13.8 δ.

reactant | ethyl 2-chloro-3-oxo-3-phenylpropionate | 0.44 mol, 100 g | ClC(C(=O)OCC)C(C1=CC=CC=C1)=O | C11H11ClO3
reactant | acetic acid | 0.44 mol, 25 ml | C(C)(=O)O | C2H4O2
reactant | Sodium borohydride | [BH4-].[Na+]
solvent | ethanol | 1 l | C(C)O | C2H6O
product | Ethyl 2-chloro-3-hydroxy-3-phenylpropionate | ClC(C(=O)OCC)C(C1=CC=CC=C1)O | C11H13ClO3
